US04863935
N-triphenylmethyl-2-paranitrophenoxycarbonylthioethylamine (300 mg) and isobutylamine (185 μl) were subjected to similar reactions to those described in References 2 and 4 to give 2-isobutylaminocarbonylthioethylamine (crude formate: 256 mg) which was then dissolved in anhydrous methanol (5 ml). Triethylamine (376 μl) and mitomycin A (151 mg: 0.8 molar equivalent) were added to the solution. The reaction solution was treated in a similar manner to that described in Example 1 to obtain Compound 24 (71 mg) in the form of grayish blue powders with a yield of 33%.

reactant | N-triphenylmethyl-2-paranitrophenoxycarbonylthioethylamine | 300 mg | C1(=CC=CC=C1)C(NCCSC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(C1=CC=CC=C1)C1=CC=CC=C1 | C28H24N2O4S
reactant | isobutylamine | 185 μl | C(C(C)C)N | C4H11N
product | 2-isobutylaminocarbonylthioethylamine | 256 mg | C(C(C)C)NC(=O)SCCN | C7H16N2OS
